US06110914
5'-Nitrospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
A mixture of spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] (325 mg, 1.5 mmol) and fuming nitric acid (0.27 mL, 5.74 mmol) in sulfuric acid (0.75 mL) was heated at 70° C. to 80° C. for 24 hours. The resulting viscous solution was poured onto 15 g of ice and basified to pH>10 with solid sodium carbonate. The resulting mixture was extracted with chloroform (4×15 mL), dried (MgSO4), filtered, and evaporated under reduced pressure. Purification by flash chromatography through silica gel, eluting with ammoniated chloroform/methanol (95:5), provided the title compound (200 mg, 0.765 mmol, 51%) as a light yellow solid: electrospray MS 262 ([MH]+, 100).

reactant | spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 1.5 mmol, 325 mg | O1C2(CC=3C1=NC=CC3)CN3CCC2CC3 | C13H16N2O
reactant | nitric acid | 5.74 mmol, 0.27 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 0.75 mL | S(O)(O)(=O)=O | H2O4S
product | 5'-Nitrospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.765 mmol, 200 mg, 51% | [N+](=O)([O-])C=1C=C2C(=NC1)OC1(C2)CN2CCC1CC2 | C13H15N3O3
